US07329694B2
N-[2-(2-trimethylsiloxyethoxy)ethyl]acrylamide (73.5 g), methanol (400 g) and acetic acid (50 g) were introduced into a 1 L eggplant type flask and were mixed to a homogeneous state, after which the mixture was allowed to stand at room temperature overnight. 2,6-di-t-butyl-4-methylphenol (0.2 g) was added, after which the solvent was removed by means of a rotary vacuum evaporator (using a vacuum pump; bath temperature, 60 to 70° C.). The volatile components were removed by means of a vacuum pump under decreased pressure over a two-hour period at 70° C. and N-[2-(2-hydroxyethoxy)ethyl]acrylamide was obtained as a yellow transparent, viscous liquid.

reactant | N-[2-(2-trimethylsiloxyethoxy)ethyl]acrylamide | 73.5 g | C[Si](OCCOCCNC(C=C)=O)(C)C | C10H21NO3Si
reactant | methanol | 400 g | CO | CH4O
reactant | 2,6-di-t-butyl-4-methylphenol | 0.2 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
product | N-[2-(2-hydroxyethoxy)ethyl]acrylamide | OCCOCCNC(C=C)=O | C7H13NO3
